US07615651B2
Preparation of Intermediate [3′-(Dimethylaminomethylene-carbamoyl)-2-fluoro-biphenyl-4-ylmethyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-7a-2)
(3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-5e; 0.8 g, 1.92 mmol) was dissolved in dimethylformamide dimethyl acetal (10 ml) and heated to 120° C. for 2 hours. The reaction mixture was then cooled to room temperature and volatiles were removed under reduced pressure. The crude residue (0.9 g) used in the next reaction without purification. Mass Spec.: (m/z+1=470).

reactant | (3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 1.92 mmol, 0.8 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC(=CC=C1)C(N)=O)F)=O | C24H31FN2O3
solvent | dimethylformamide dimethyl acetal | 10 ml | COC(N(C)C)OC | C5H13NO2
product | [3′-(Dimethylaminomethylene-carbamoyl)-2-fluoro-biphenyl-4-ylmethyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC(=CC=C1)C(N=CN(C)C)=O)F)=O | C27H36FN3O3
